US03985896
Phenyllithium (164 ml. of 2.1 M, 0.345 mol.) was added dropwise to a solution of 35.9 g. (0.138 mol.) of 1-(2-bromoethenyl)-4methoxynaphthalene in 120 ml. of refluxing dry benzene under a nitrogen atmosphere. After addition the reaction mixture was refluxed for 30 minutes, then ice and water were slowly added. The mixture was shaken, the layers separated and the organic phase was washed with water and saturated sodium chloride solution, dried (MgSO4) and evaporated to give 1-ethynyl-4-methoxynaphthalene.

reactant | Phenyllithium | 0.345 mol, 2.1 M, 164 ml | C1(=CC=CC=C1)[Li]
reactant | 1-(2-bromoethenyl)-4methoxynaphthalene | 0.138 mol | BrC=CC1=CC=C(C2=CC=CC=C12)OC | C13H11BrO
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 1-ethynyl-4-methoxynaphthalene | C(#C)C1=CC=C(C2=CC=CC=C12)OC | C13H10O
